US08791134B2
Preparation of 1-benzoyl-4-nitrosopiperidin-4-yl 2,2,2-trifluoroacetate
1-Benzoyl-4-nitrosopiperidin-4-yl 2,2,2-trifluoroacetate was prepared according to General Method 4. To a solution of bis(trifluoroacetoxy)iodobenzene (990 mg, 2.3 mmol) in DCM (25 ml) cooled to 0° C. was added a solution of 1-benzoyl-piperidin-4-one oxime (500 mg, 2.3 mmol) in DCM (20 ml). After 2 hours the reaction was concentrated in vacuo and purified by column chromatography on silica gel with DCM as the eluent to afford the title compound as a blue oil in 32% yield. 1H NMR (400 MHz, chloroform-d) δ 7.43-7.53 (5H, m), 4.90-4.64 (1H, m), 4.19-3.89 (1H, m), 3.49-3.28 (2H, m), 2.64-2.34 (2H, m), 2.11-1.84 (2H, m).

reactant | bis(trifluoroacetoxy)iodobenzene | 2.3 mmol, 990 mg | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 1-benzoyl-piperidin-4-one oxime | 2.3 mmol, 500 mg | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=NO | C12H14N2O2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-benzoyl-4-nitrosopiperidin-4-yl 2,2,2-trifluoroacetate | FC(C(=O)OC1(CCN(CC1)C(C1=CC=CC=C1)=O)N=O)(F)F | C14H13F3N2O4
